US09422247B2
B. 4-Methylpyrimidine-2-ol-1-oxid hydrochloride
0.10 mol (7.61 g) hydroxy urea were dissolved in 150 ml of 1 M HCl and 0.11 mol (16.15 g, techn. 90%) of 4,4,-dimethoxy-2-butanone was added dropwise under ice cooling whereby the internal temperature was maintained at 1-3° C. The solution was thawed in an ice bath to room temperature and stirred over night, then filtered and evaporated to dryness. The residue was suspended with 100 ml of acetone, the mixture was cooled to −18° C., the solid filtered off and washed with a little ice-cold acetone. After drying, 10.7 g or crude product were obtained. The crude product was recrystallized with 1750 ml ethanol from the boiling heat, cooled in an ice/ethanol bath, filtered off, washed with a little ethanol and dried (fraction 1). The mother liquor was concentrated on a rotary evaporator until again product started to precipitate, cool stored and a second fraction isolated. After drying, 6.15 g (1. fraction) and 1.86 g (2. fraction) product was obtained. Both fractions were combined and recrystallized from the boiling heat with 230 ml 90% ethanol (10 (D/0 water) similarly. After drying, 3.75 g (3. fraction) and 2.36 g (4. fraction) of the title compound were obtained.

reactant | hydroxy urea | 0.10 mol, 7.61 g | ONC(=O)N | CH4N2O2
reactant | 4,4,-dimethoxy-2-butanone | 0.11 mol, 16.15 g | COC(CC(C)=O)OC | C6H12O3
reactant | HCl | 1 M, 150 ml | Cl | ClH
product | 4-Methylpyrimidine-2-ol-1-oxid hydrochloride | Cl.CC=1N=C([N+](=CC1)[O-])O | InChI=1S/C5H6N2O2.ClH/c1-4-2-3-7(9)5(8)6-4;/h2-3H,1H3,(H,6,8);1H
